US05187156
To a solution of Boc-D-Trp(CH2CO2Et)-OBzl (4.14 g) in ethanol (60 ml) was added 5% palladium on carbon (0.7 g) and the mixture was hydrogenated for one and half an hour under atmospheric pressure. Filtration of the catalyst and concentration of the filtrate under vacuum gave Boc-D-Trp(CH2CO2Et)-OH as an amorphous solid (3.06 g).

reactant | Boc-D-Trp(CH2CO2Et)-OBzl | 4.14 g | N([C@H](CC1=CN(C2=CC=CC=C12)CC(=O)OCC)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C27H32N2O6
solvent | ethanol | 60 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 0.7 g | [Pd] | Pd
product | Boc-D-Trp(CH2CO2Et)-OH | 3.06 g | N([C@H](CC1=CN(C2=CC=CC=C12)CC(=O)OCC)C(=O)O)C(=O)OC(C)(C)C | C20H26N2O6
